US04071477
To a slurry of ammonium carbonate (865 parts), sodium cyanide (180 parts) in water (1200 parts) was added 5-methyl-3-heptanone (385 parts) in ethanol (1200 parts) at ambient temperature with stirring. The reaction mixture was heated to 55° C over a period thirty minutes and maintained at 55° C for 6 hours. After cooling to ambient temperature, chloroform (1000 parts) was added and the mixture stirred for ten minutes. The reaction mixture was filtered and the filter cake washed with additional chloroform (500 parts). The organic phase was collected and the aqueous phase washed with additional chloroform (1000 parts) in two portions. The combined organic phase was evaporated to dryness yielding crude product. The resultant white solid was slurried in water (2000 parts), filtered and dried to constant weight to afford 5-sec-amyl-5-ethylhydantoin (560 parts, 94% yield, mp 151°-6° C.

reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 5-methyl-3-heptanone | CC(CC(CC)=O)CC | C8H16O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-sec-amyl-5-ethylhydantoin | 94% yield | C(C)(CCC)C1(C(NC(N1)=O)=O)CC | C10H18N2O2
